US09056873B2
Step B: (E)-1-(Diphenylmethylene)-2-(1-(3-(2-(diphenylmethylene)hydrazinyl)thiophen-2-yl)ethylidene)hydrazine
To a mixture of (E)-1-(1-(3-bromothiophen-2-yl)ethylidene)-2-(diphenylmethylene)hydrazine (12.5 g, 32.6 mmol, including its Z isomer) and (diphenylmethylene)hydrazine (7.68 g, 39.1 mmol) in toluene (25 mL) was added palladium(II) acetate (0.385 g, 6.52 mmol), 1,1′-bis(diphenylphosphino)ferrocene (1.808 g, 3.26 mmol) and Cs2CO3 (21.25 g, 65.2 mmol). The reaction mixture was heated at 80° C. for 14 hours. The mixture was subsequently diluted with toluene (25 mL) and filtered to remove solids. The filtrate was evaporated and chromatographed using a gradient of 0-100% hexane and EtOAc. The pure product fractions were combined and evaporated to give the title compound (12.5 g, 77%). ESI-MS m/z [M+H]+ calc'd for C32H26N4S, 499. found, 499.

reactant | (E)-1-(1-(3-bromothiophen-2-yl)ethylidene)-2-(diphenylmethylene)hydrazine | 32.6 mmol, 12.5 g | BrC1=C(SC=C1)\C(\C)=N\N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15BrN2S
reactant | (diphenylmethylene)hydrazine | 39.1 mmol, 7.68 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NN | C13H12N2
reactant | Cs2CO3 | 65.2 mmol, 21.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 6.52 mmol, 0.385 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 3.26 mmol, 1.808 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (E)-1-(Diphenylmethylene)-2-(1-(3-(2-(diphenylmethylene)hydrazinyl)thiophen-2-yl)ethylidene)hydrazine | 12.5 g, 77% | C1(=CC=CC=C1)C(=N/N=C(\C)/C=1SC=CC1NN=C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C32H26N4S
